US08252820B2
B. 5-[8-Fluoro-6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-2,2-dimethyl-pentanoic acid
This compound is prepared from 5-(3-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 2,2-dimethyl-pent-4-enoic acid-9-BBN similar to Example 8, Steps A and B, except in Step B, Pd(OH)2 is used to replace 10% Pd/C: Retention time=0.98 min (Method A); MS (M−H)−=423.

reactant | 5-(3-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC=1C(=C(C2=CC(=CC=C2C1)Br)F)N1CC(NS1(=O)=O)=O | C19H14BrFN2O4S
reactant | 2,2-dimethyl-pent-4-enoic acid 9-BBN | CC(C(=O)O)(CC=C)C.B1C2CCCC1CCC2
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
catalyst | Pd/C | [Pd] | Pd
product | 5-[8-Fluoro-6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-2,2-dimethyl-pentanoic acid | FC=1C(=C(C=C2C=CC(=CC12)CCCC(C(=O)O)(C)C)O)N1S(NC(C1)=O)(=O)=O | C19H21FN2O6S
